US08283363B2
76.4 (2R)-1-benzyl-N-(4-(ethoxyamino)-3,4-dioxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide
IBX (2-iodoxybenzoic acid 432 mg, 0.694 mmol) was added to a solution of (2R)-1-benzyl-N-(4-(ethoxyamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide (218 mg, 0.496 mmol) in DMSO (2 ml). After stirring for 2 h at room temperature more IBX (123 mg, 0.198 mmol) was added and the stirring was continued overnight. Saturated aqueous NaHCO3 solution was added and the reaction mixture was diluted with water and dichloromethane. The precipitate formed was filtered off, the organic layer was separated and the aqueous layer extracted with dichloromethane. The combined organic layers were washed with water and dried (MgSO4). The solvent was removed in vacuo, the resulting residue was redissolved in a small amount of dichloromethane and diethylether was added. The white precipitate formed was filtered, washed with diethylether and dried in vacuo. The crude product was dissolved in dichloromethane and treated with three drops of aqueous HCl (4M in dioxane). Removal of the solvent provided the title compound (8.2 mg, 0.015 mmol, 3.02% yield). ESI-MS [M+H]+=438.2

reactant | 2-iodoxybenzoic acid | 0.694 mmol, 432 mg | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | (2R)-1-benzyl-N-(4-(ethoxyamino)-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide | 0.496 mmol, 218 mg | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)NC(CC1=CC=CC=C1)C(C(=O)NOCC)O | C24H29N3O5
reactant | 2-iodoxybenzoic acid | 0.198 mmol, 123 mg | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2R)-1-benzyl-N-(4-(ethoxyamino)-3,4-dioxo-1-phenylbutan-2-yl)-5-oxopyrrolidine-2-carboxamide | 0.015 mmol, 8.2 mg, 3.02% yield | C(C1=CC=CC=C1)N1[C@H](CCC1=O)C(=O)NC(CC1=CC=CC=C1)C(C(=O)NOCC)=O | C24H27N3O5
